US07005432B2
3-(2-Ethyl-imidazol-1-yl-methyl)-5-methoxy-pyridazine
The title compound, MS: m/e=219.3 (M+H+), was prepared from (5-methoxy-pyridazin-3-yl)-methanol and 2-ethylimidazole.

reactant | (5-methoxy-pyridazin-3-yl)-methanol | COC=1C=C(N=NC1)CO | C6H8N2O2
reactant | 2-ethylimidazole | C(C)C=1NC=CN1 | C5H8N2
product | 3-(2-Ethyl-imidazol-1-yl-methyl)-5-methoxy-pyridazine | C(C)C=1N(C=CN1)CC=1N=NC=C(C1)OC | C11H14N4O
